US08865712B2
l) 5-Chloro-pyridine-2-carboxylic acid [6-(3-fluoromethyl-5-oxo-morpholin-3-yl)-pyridin-2-yl]-amide
A mixture of 4,5-Bis(diphenyl phosphino)-9,9-dimethyl xanthene (0.04 g, 0.069 mmol), tris(dibenzylidene-acetone) di palladium(0) (0.032 g, 0.035 mmol) and cesium carbonate (0.678 g, 2.083 mmol) were taken in 1,4-dioxane and degassed with argon for 10 min. 5-(6-Bromo-pyridin-2-yl)-5-fluoromethyl-morpholin-3-one (0.2 g, 0.694 mmol) followed by 5-chloropicolinamide (0.119 g, 0.764 mmol) were added to the resultant reaction mixture and degassed with argon for further 5 min. Reaction mixture was then heated at 80° C. for 16 h and cooled to rt. Reaction contents were treated with water and product was extracted with ethyl acetate, washed with brine and dried over anhy. Na2SO4. The organic layer was concentrated under reduced pressure to obtain liquid which was triturated with n-pentane to furnish title compound as a off-white solid. Yield=0.24 g (crude). TLC (50% ethyl acetate in hexane) Rf=0.45; LCMS: RtH8=1.215, [M+1]=365.1 and 366.9; HPLC RtH9=4.367 min (53%).

reactant | 4,5-Bis(diphenyl phosphino)-9,9-dimethyl xanthene | 0.069 mmol, 0.04 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | cesium carbonate | 2.083 mmol, 0.678 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-(6-Bromo-pyridin-2-yl)-5-fluoromethyl-morpholin-3-one | 0.694 mmol, 0.2 g | BrC1=CC=CC(=N1)C1(COCC(N1)=O)CF | C10H10BrFN2O2
reactant | 5-chloropicolinamide | 0.764 mmol, 0.119 g | ClC=1C=CC(=NC1)C(=O)N | C6H5ClN2O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylidene-acetone) di palladium(0) | 0.035 mmol, 0.032 g | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
solvent | water | O | H2O
product | 5-Chloro-pyridine-2-carboxylic acid [6-(3-fluoromethyl-5-oxo-morpholin-3-yl)-pyridin-2-yl]-amide | FCC1(NC(COC1)=O)C1=CC=CC(=N1)NC(=O)C1=NC=C(C=C1)Cl | C16H14ClFN4O3
